US06174898B1
(R)-N-(4-(2-(Diphenylamino)ethoxy)-1-butyl)-3-piperidinecarboxylic acid hydrochloride
A mixture of 1-chloro-4-(2-(diphenylamino)ethoxy)butane (2.0 g, 6.6 mmol), ethyl (R)-3-piperidinecarboxylate (1.1 g, 7.0 mmol), potassium carbonate (1.0 g, 7.2 mmol) and dry dibutylether was heated at 150° C. for 4 h. The mixture was cooled, filtered and the solvent evaporated in vacuo. The residue was submitted to flash chromatography on silica gel (150 g) using a mixture of n-heptane and THF (4:1) as eluent. This afforded 1.5 g (34% calculated from 2-(diphenylamino)ethanol) of

reactant | 1-chloro-4-(2-(diphenylamino)ethoxy)butane | 6.6 mmol, 2.0 g | ClCCCCOCCN(C1=CC=CC=C1)C1=CC=CC=C1 | C18H22ClNO
reactant | ethyl (R)-3-piperidinecarboxylate | 7.0 mmol, 1.1 g | N1C[C@@H](CCC1)C(=O)OCC | C8H15NO2
reactant | potassium carbonate | 7.2 mmol, 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | dibutylether | C(CCC)OCCCC | C8H18O
product | (R)-N-(4-(2-(Diphenylamino)ethoxy)-1-butyl)-3-piperidinecarboxylic acid hydrochloride | Cl.C1(=CC=CC=C1)N(CCOCCCCN1C[C@@H](CCC1)C(=O)O)C1=CC=CC=C1 | InChI=1S/C24H32N2O3.ClH/c27-24(28)21-10-9-16-25(20-21)15-7-8-18-29-19-17-26(22-11-3-1-4-12-22)23-13-5-2-6-14-23;/h1-6,11-14,21H,7-10,15-20H2,(H,27,28);1H/t21-;/m1./s1
